US06399601B1
2-Chloro-4H-thieno[3,2-b]pyrrole-5-carboxylic Acid Ethyl Ester
5-Chloro-thiophene-2-carbaldehyde was annulated according to Procedure H (aldehyde and azido-acetic acid ethyl ester added as ethanol solution (1.2 M of ester) such that reaction temperature maintained at 0-5° C.; reaction mixture allowed to warm to room temperature, stirred for 2 h, poured into cold saturated aqueous NH4Cl; after ether extractions, combined acrylate organic phases washed with water until aqueous phase was neutral; 0.5 M solution of crude acrylate heated for 1.5 h).

reactant | 5-Chloro-thiophene-2-carbaldehyde | ClC1=CC=C(S1)C=O | C5H3ClOS
reactant | azido-acetic acid ethyl ester | C(C)OC(CN=[N+]=[N-])=O | C4H7N3O2
reactant | NH4Cl | [NH4+].[Cl-]
reactant | acrylate | C(C=C)(=O)[O-]
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | ethanol | 1.2 M | C(C)O | C2H6O
product | 2-Chloro-4H-thieno[3,2-b]pyrrole-5-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=CC2=C(N1)C=C(S2)Cl | C9H8ClNO2S
